US04374248
3-{2-[(5-Methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-(2-propynyl)amino-1,2,5-thiadiazole 1,1-dioxide
Reaction of a methanolic suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide with one equivalent of 2-propynylamine and treating the resultant 3-methoxy-4-propynylamino-1,2,5-thiadiazole 1,1-dioxide with one equivalent of 2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamine yields the title compound; identical to the product of Example 1.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-propynylamine | one equivalent | C(C#C)N | C3H5N
reactant | 3-methoxy-4-propynylamino-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1NC#CC)(=O)=O | C6H7N3O3S
reactant | 2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamine | one equivalent | CC1=C(N=CN1)CSCCN | C7H13N3S
product | 3-{2-[(5-Methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-(2-propynyl)amino-1,2,5-thiadiazole 1,1-dioxide | CC1=C(N=CN1)CSCCNC1=NS(N=C1NCC#C)(=O)=O | C12H16N6O2S2
